US04134993
5-Ethyl-4'-methyl-2-(methylthio)benzophenone
Aluminum chloride (10.8g) was added in portions to an ice-cooled, stirred solution of 4-(ethyl)thioanisole (12.3g) and 4-methylbenzoyl chloride (12.5g) in 1,2-dichloroethane (60 ml). The mixture was allowed to come to ambient temperature and was stirred overnight. It was then poured into a mixture of concentrated hydrochloric acid (about 100 ml) and ice (200 gm), which mixture was extracted with chloroform (3 × 100 ml), and the combined organic fractions were washed with 10% w/v aqueous sodium carbonate solution (2 × 100 ml) and water (100 ml), dried over magnesium sulphate and evaporated to leave the crude product as an oil. This oil was distilled twice to give the title compound as a clear oil (bp 152°-154° C./0.01 mm). The structure was confirmed by NMR.

reactant | Aluminum chloride | 10.8g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-(ethyl)thioanisole | 12.3g | C(C)C1=CC=C(C=C1)SC | C9H12S
reactant | 4-methylbenzoyl chloride | 12.5g | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | hydrochloric acid | about 100 ml | Cl | ClH
solvent | 1,2-dichloroethane | 60 ml | ClCCCl | C2H4Cl2
product | 5-Ethyl-4'-methyl-2-(methylthio)benzophenone | C(C)C=1C=CC(=C(C(=O)C2=CC=C(C=C2)C)C1)SC | C17H18OS
